Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfasalazine / Macrobid / Vicodin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with a history of 
fistualizing structuring ileocolonic Crohn's disease on 
mesalamine who is admitted after outpatient MRI showed 
extrasphincteric rectal fistula. 

Patient's recent outpatient course is summarized as follows: She 
underwent an MR enterography done ___ showed a 15 cm long 
segment of neoterminal ileum demonstrating mild active and 
chronic inflammation without fistula. Subsequent colonoscopy on 
___ which was notable for postoperative anatomy consistent 
with ileocecal ectomy and ileocolonic anastomosis with an 
anastomotic stricture not traversable with the pediatric 
colonoscope.  There were several serpiginous ulcerations noted 
at the anastomosis.  She had been in discussion with her 
outpatient gastroenterologist Dr. ___ starting 
___ therapy with Humira given her history of fistula lysing 
disease.  She was scheduled to start in mid ___, however she 
experienced UTI-like symptoms which recurred even after a 5-day 
course of cephalexin.  She subsequently was seen in where she 
was diagnosed with atrophic vaginitis and vulvovaginitis and 
prescribed estrogen cream, but the patient never filled this.  
Since that time, she has continued to have vague "bladder 
spasms" with some burning which improves after she is finished 
voiding.  Given her ongoing symptoms, an MRI of her pelvis was 
ordered to rule out abscess or other infection prior to starting 
Humira.  The MRI was notable for an extra sphincteric rectal 
fistula.

Patient was otherwise in her usual state of health throughout 
all this.  She had ongoing urinary symptoms described as 
discomfort in the bladder "burning" which he drinks a lot of 
water which would improve when she voids.  She felt like she was 
urinating more frequently but denied any urinary urgency.  She 
does not have any fevers or chills.  On ___, she developed 
some loose stools after at a restaurant on ___ morning.  She 
subsequently switched to the brat diet and her diarrhea 
resolved.  She went to sleep at night without symptoms but woke 
up with some generalized diffuse abdominal pain without 
radiation but later coalesced into a bandlike pain along her 
periumbilical similar to her prior Crohn's flares.  Came in 
waves and felt like "contractions".  This is associated with her 
previous bowel movements/___nd loose and 
without BRBPR.  Given her ongoing pain symptoms, she reported to 
the emergency department.

Emergency department her abdominal exam was noted to be benign.  
She had a leukocytosis but no LFT, lipase changes.  KUB was 
performed which showed nonobstructive bowel gas.  She was given 
several doses of IV morphine, antiemetics, IVF, and 
Cipro/Flagyl. It was discussed that patient could be discharged 
to home however was to challenge him subsequently admitted to 
the hospital.  

Overnight on the hospital floor she continued to have pain but 
this subsided around 0400 this morning.  At that time she had a 
another loose bowel movement, green without any blood or melena. 
 She has since been able to tolerate a liquid diet and her pain 
has completely resolved.  Her only complaint now is a vague 
headache.  She denies any fevers/chills, neck pain or stiffness, 
sore throat, upper respiratory symptoms, chest pain or pressure, 
dyspnea or cough no arthralgias or myalgias.  She does note that 
she has had a slight upper chest and bilateral cheek rash which 
appears to be slightly flushed skin but without any pruritus or 
pain.  She has been ambulating in the room without feeling 
lightheaded or dizzy and feels steady on her feet.  She 
otherwise has no focal complaints beyond the above.

REVIEW OF SYSTEMS: Positive per HPI, otherwise complains of ROS 
negative in detail.

 
Past Medical History:
Fistualizing structuring ileocolonic Crohn's disease 
History of Small Bowel Obstruction
Vitamin D Deficiency
Chronic Headaches
Uterine Fibroid
Vulvovaginitis
Atrophic Vaginitis

PAST SURGICAL HISTORY
Laparoscopy for endometriosis (___)
Ileocectomy (___)
 
Social History:
___
Family History:
Reviewed and found to be non-contributory to this admission.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 24 HR Data (last updated ___ @ 938)
    Temp: 98.6 (Tm 98.6), BP: 97/65 (97-107/65-67), HR: 80 
(72-80), RR: 18 (___), O2 sat: 95% (95-98), O2 delivery: RA, 
Wt: 129.7 lb/58.83 kg  
GEN: Young woman in NAD, sitting in bed pleasant conversive
Eyes: Anicteric, noninjected
ENT: MMM, grossly normal OP, good dentition
Neck: Supple, SROM no LAD.
CV: RRR, normal S1/S2 no G/R/M 2+ radial/DP pulses
Chest: CTA B no W/R/RE WOB speaking in full sentences
Back: No midline spinous process tenderness no CVAT
GU: No suprapubic fullness or tenderness, no pain to palpation 
of her bladder.
Abdomen: Soft, TTP around periumbilical region without rebound, 
guarding or rigidity.  Normoactive bowel sounds.
Extremities: WP, no edema
Neuro: CN II through XII intact.  AAO x3.  Strength is 5 out of 
5 in bilateral upper/lower extremity major flexor/extensors.  
Sensation to fine touch grossly preserved throughout 
bilaterally.
Psych: Mood and affect are appropriate

DISCHARGE PHYSICAL EXAM
VS: 24 HR Data (last updated ___ @ 938)
    Temp: 98.6 (Tm 98.6), BP: 97/65 (97-107/65-67), HR: 80 
(72-80), RR: 18 (___), O2 sat: 95% (95-98), O2 delivery: RA, 
Wt: 129.7 lb/58.83 kg  
GEN: Young woman in NAD, sitting in bed pleasant conversive
Eyes: Anicteric, noninjected
ENT: MMM, grossly normal OP, good dentition
Neck: Supple, SROM no LAD.
CV: RRR, normal S1/S2 no G/R/M 2+ radial/DP pulses
Chest: CTA B no W/R/RE WOB speaking in full sentences
Back: No midline spinous process tenderness no CVAT
GU: No suprapubic fullness or tenderness, no pain to palpation 
of her bladder.
Abdomen: Soft, TTP around periumbilical region without rebound, 
guarding or rigidity.  Normoactive bowel sounds.
Extremities: WP, no edema
Neuro: CN II through XII intact.  AAO x3.  Strength is 5 out of 
5 in bilateral upper/lower extremity major flexor/extensors.  
Sensation to fine touch grossly preserved throughout 
bilaterally.
Psych: Mood and affect are appropriate
 
Pertinent Results:
LABS
___ 08:54AM BLOOD WBC-6.7 RBC-4.30 Hgb-12.9 Hct-38.2 MCV-89 
MCH-30.0 MCHC-33.8 RDW-12.4 RDWSD-40.4 Plt ___
___ 12:40PM BLOOD Neuts-93.7* Lymphs-2.8* Monos-2.6* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-16.52* AbsLymp-0.49* 
AbsMono-0.46 AbsEos-0.01* AbsBaso-0.03
___ 08:54AM BLOOD Plt ___
___ 12:40PM BLOOD Plt ___
___ 12:40PM BLOOD Glucose-109* UreaN-11 Creat-0.8 Na-142 
K-3.8 Cl-102 HCO3-25 AnGap-15
___ 12:40PM BLOOD ALT-18 AST-19 AlkPhos-71 TotBili-0.7
___ 12:40PM BLOOD Lipase-19
___ 12:40PM BLOOD Albumin-4.7
___ 12:40PM BLOOD CRP-1.6

MICRO:
- UCx (___): pending NGTD
- CDI: Pending, to be collected

IMAGING:
- MR ___ (___): Extrasphincteric (infrasphincteric) fistula 
with an opening at 5:30 at the anal verge and an exit at the 
left gluteal fold. No abscess. 

- AXR (___): Unremarkable bowel gas pattern.

- C-scope (___): Postoperative anatomy consistent with 
ileocecal ectomy and ileocolonic anastomosis with an anastomotic 
stricture not traversable with the pediatric colonoscope.  There 
were several serpiginous ulcerations noted at the anastomosis.  

PATH:
- Colon Biopsy (___): Colonic mucosa with ulceration, 
architectural distortion, and mild acute inflammation. No 
granulomas or dyplasia seen.
 
Brief Hospital Course:
___ is a ___ year old woman with a history of 
fistualizing structuring ileocolonic Crohn's disease on 
mesalamine who is admitted after outpatient MRI showed 
extrasphincteric rectal fistula. Her symptoms resolved without 
intervention and GI recommended she be discharged to home to 
follow-up in the clinic setting. 

# Abdominal Pain (resolved)
# Fistualizing structuring ileocolonic Crohn's Disease 
# Extrasphincteric rectal fistula: Patient presented with 
centralized abdominal pain associated with nausea. She initially 
had a leukocytosis which resolved without intervention. MR 
pelvis 1 day prior to admission was notable for a 
extrasphincteric rectal fistula. KUB on admission was without 
concerning bowel gas pattern. On morning of HD#0, patient's pain 
resolved without intervention and she was able to tolerate a 
diet. She was having some loosely formed green stool and this 
was sent for studies, but these were pending at time of 
discharge. She was initially treated with cipro/flagyl, but 
these were stopped at GI recommendation. She was evaluated by 
gastroenterology who recommended that she be discharged home to 
follow-up with Dr. ___ on ___ for consideration of 
Humira initiation.  Patient was educated as to the nature of her 
condition, red flag signs to look out for and reasons to return 
to the emergency department.

# Vitamin D Deficiency: Continued home vitamin D
# Conception: On home low dose naltrexone off-label, prescribed 
by PCP for low endorphins

TRANSITIONAL ISSUES
[ ] CDI and stool studies pending at time of discharge.
[ ] GI follow-up ___, with outpatient humira initiation. 
[ ] Urine culture pending at time of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine 800 mg PO TID 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Naltrexone 50 mg PO DAILY 
4. Calcium Carbonate 500 mg PO DAILY 
5. Vitamin D 5000 UNIT PO DAILY 
6. adalimumab 40 mg/0.8 mL subcutaneous Evry other week 

 
Discharge Medications:
1.  adalimumab 40 mg/0.8 mL subcutaneous Evry other week  
2.  Calcium Carbonate 500 mg PO DAILY  
3.  Mesalamine 800 mg PO TID  
4.  Naltrexone 50 mg PO DAILY  
5.  Prenatal Vitamins 1 TAB PO DAILY  
6.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Abdominal Pain 
# Fistualizing structuring ileocolonic Crohn's Disease  
# Extrasphincteric rectal fistula 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were hospitalized at ___ because you were experiencing 
abdominal pain. You were evaluated with blood tests, xrays, 
stool tests, and were seen by our gastroenterologists who 
discussed your case with Dr ___. You were briefly treated 
with antibiotics, but these were stopped. 

The MRI you had prior to coming to the office showed a small 
fistula near your rectum. 
The gastroenterology doctors recommended that ___ be discharged 
to home to follow-up with Dr ___ on ___. The GI team 
ahs recommended that you start taking Humira, but we would 
recommend checking with Dr ___ you have any concerns. 

We tested your stool for an infection called C. diff. This test 
is still pending at the time of your discharge. If the results 
return as abnormal we will call you with instructions about what 
to do next. 

No medication changes were made this hospitalization. 

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if you develop a 
worsening or recurrence of the same symptoms that originally 
brought you to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern you.

It was a pleasure taking care of you!
Your ___ Care Team

 
Followup Instructions:
___